US07557112B2
A solution of tert-butanol of N-methylmorpholine-N-oxide and osmium tetroxide was added to a mixture of 1-benzyl-4-methyleneazepane hydrochloride and THF-water and stirred at room temperature for 24 hours. Then the reaction solution was processed with 4M hydrochloric acid (HCl)-ethyl acetate (EtOAc) solution to give 1-benzyl-4-(hydroxymethyl)azepane-4-ol hydrochloride. 10% palladium carbon was added to a solution of EtOH of the obtained 1-benzyl-4-(hydroxymethyl)azepane-4-ol hydrochloride and stirred for six hours at room temperature under the hydrogen atmosphere to give 4-(hydroxymethyl)azepane-4-ol hydrochloride.

reactant | tert-butanol | C(C)(C)(C)O | C4H10O
reactant | N-methylmorpholine-N-oxide | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | 1-benzyl-4-methyleneazepane hydrochloride | Cl.C(C1=CC=CC=C1)N1CCC(CCC1)=C
reactant | hydrochloric acid (HCl)-ethyl acetate | 4M | C(C)(=O)OCC.Cl.Cl
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
solvent | THF water | C1CCOC1.O
product | 1-benzyl-4-(hydroxymethyl)azepane-4-ol hydrochloride | Cl.C(C1=CC=CC=C1)N1CCC(CCC1)(O)CO | InChI=1S/C14H21NO2.ClH/c16-12-14(17)7-4-9-15(10-8-14)11-13-5-2-1-3-6-13;/h1-3,5-6,16-17H,4,7-12H2;1H
